US09126951B2
Synthesis of 2-amino-5-bromo-4-methoxybenzaldehyde
To a stirred solution of 2-amino-4-methoxybenzaldehyde (6 g, 39.7 mmol) in dichloromethane (100 mL) was added N-bromosuccinimide (7 g, 39.7 mmol). LCMS monitored the reaction until the starting material consumed completely. The reaction mixture was diluted with dichloromethane and water. The separated organic layer was dried sodium sulfate, filtered and concentrated to give the title compound (5 g, 56%) as a yellow solid. MS (ES+) C8H8BrNO2 requires: 229, 231. Found: 230, 232 [M+H]+.

reactant | 2-amino-4-methoxybenzaldehyde | 39.7 mmol, 6 g | NC1=C(C=O)C=CC(=C1)OC | C8H9NO2
reactant | N-bromosuccinimide | 39.7 mmol, 7 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 2-amino-5-bromo-4-methoxybenzaldehyde | 5 g, 56% | NC1=C(C=O)C=C(C(=C1)OC)Br | C8H8BrNO2
